US07423061B2
Methyl 5-bromo-2-({[(trichloroacetyl)amino]carbonyl}amino)thiophene-3-carboxylate.
To a stirred solution of methyl 2-({[(trichloroacetyl)amino]carbonyl}amino)thiophene-3-carboxylate (1 eq) in glacial acetic acid (20 mL) was added a solution of bromine (1.3 eq) in glacial acetic acid (5 mL) slowly over a period of 5 min. After the addition was complete, the resulting dark solution was stirred for 30 mins at RT. The solvent was evaporated under vaccum and the residue was triturated with H2O. The title compound was obtained by filtration (99%) as an off-white solid. The product was used in the next step without any further purification after drying for 2 days under P2O5. LC/MS (ES, M+H=425).

reactant | methyl 2-({[(trichloroacetyl)amino]carbonyl}amino)thiophene-3-carboxylate | 1 eq | ClC(C(=O)NC(=O)NC=1SC=CC1C(=O)OC)(Cl)Cl | C9H7Cl3N2O4S
reactant | bromine | 1.3 eq | BrBr | Br2
solvent | acetic acid | 20 mL | C(C)(=O)O | C2H4O2
solvent | acetic acid | 5 mL | C(C)(=O)O | C2H4O2
product | Methyl 5-bromo-2-({[(trichloroacetyl)amino]carbonyl}amino)thiophene-3-carboxylate | BrC1=CC(=C(S1)NC(=O)NC(C(Cl)(Cl)Cl)=O)C(=O)OC | C9H6BrCl3N2O4S
